*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM31PG601SN1
* Property : Z@100MHz = 600[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM31PG601SN1_MURATA port1 port2
R1 port1 1 178.4
L1 port1 1 2.592e-6
C1 port1 2 1.357e-12
R2 1 2 451.3
L2 1 2 9.665e-7
R3 2 3 28.53
L3 2 3 5.435e-7
R4 3 port2 6.000e-2
.ENDS BLM31PG601SN1_MURATA
*----------------------------------------------------------------------
