.SUBCKT C1206C103K5RACTU_KEMET 1 6
*Temp = 25°C, Bias = 0VDC, Center Frequency = 10000 Hz
*KEMET Model RLC Cerm
R1 3 4 20.2111701965332
R2 2 5 8.39999961853027
R3 1 6 99999997952
L1 1 2 3.95000032682447E-11
L2 2 3 7.50500062096648E-10
C1 4 6 9.63658486341501E-09
C2 5 6 2.09999990463257E-12
.ENDS
