.subckt NV78L05 1 2 3
Q1 1 N006 N010 0 NP
Q2 1 N004 N006 0 NP
*R1 N010 2 7
R1 N010 2 3.5
R2 N006 2 2.5K
R3 2 N018 2.65k
R4 N018 3 2.23K
Q3 N012 N015 N020 0 NP
Q4 N003 N003 1 0 PN
R5 N018 N015 15k
Q5 N022 N022 3 0 NP
R7 N019 3 7.8k
Q6 N006 N017 N020 0 NP
C1 N015 N012 5p
Q7 N020 N021 N023 0 NP
R9 N004 N012 5.76k
Q9 N004 N009 N013 0 NP
Q11 N021 N021 N022 0 NP
R17 N010 N009 100
R18 N001 N005 2k
Q16 N008 N003 N002 0 PN
Q17 N004 N003 1 0 PN
Q18 3 N012 N004 0 PN
J1 1 3 N007 2N3819
D4 3 N008 DZ
Q8 N003 N007 N008 0 NP
R13 1 N002 410
Q10 N019 N014 N011 0 PN
Q12 N003 N008 N011 0 NP
R11 N011 N014 576
R12 N014 N016 3.41k
R14 N016 N021 3.89k
R8 N023 3 2.84k
R6 N013 2 100
R10 N017 N016 13k
Q13 N004 N019 3 0 NP
D6 3 N007 DZ
D1 1 N001 1N4148
D2 N005 N009 1N4148
.model D D
.model NPN NPN
.model PNP PNP
.model NJF NJF
.model PJF PJF
.model DZ D(BV=3.5)
.model NP NPN(BF=125 Cje=.5p Cjc=.5p Rb=500)
.model PN LPNP(BF=25 Cje=.3p Cjc=1.5p Rb=250)
.ends NV78L05
