* TL431A behavioral model by analog@ieee.org
.SUBCKT TL431_A A K R
R1 R A 1e6
D4 A 4 2V5
D5 A K Dc
D1 R K Dc
G2 K 4 6 A 90m
G1 A 5 R 4 1
C1 5 A 1n Rpar=1k
R2 6 5 700k
D2 4 R Dc
D3 A 6 Di
C2 K 6 40p Rser=6k Rpar=400k
*
.model Di D(Ron=10m)
.model Dc D(Ron=7 Vfwd=.6 Vrev=36)
.model 2V5 D(Ron=.13 Vfwd=.6 Vrev=2.5 Roff=7k)
.ENDS  TL431_A
