*SPICE_NET
.SUBCKT TLV431 6 7 11
*             A K FDBK
.MODEL DCLAMP D (IS=13.5N RS=25M N=1.59 
+ CJO=45P VJ=.75 M=.302 TT=50.4N BV=36V IBV=1MA)
.MODEL DCL2 D RS=660K
V1 1 6 1.24
R1 6 2 15.6
C1 2 6 .5U
R2 2 3 100
C2 3 4 1.3U
R3 4 6 8
G2 6 8 3 6  .86
D1 5 8 DCLAMP
D2 7 8 DCLAMP
D4 6 8 DCLAMP
*V4 5 6 2
V4 5 6 1.2
G1 6 2 1 11 0.11
VCLAMP 9 6 14.5
D3  7 9 DCL2
* Add-ons
Rinp 11 6 8e6
Din1 11 7 DCLAMP
Din2 6 11 DCLAMP
DKA 6 7 DCLAMP
.ENDS
