* TL431 behavioral model by analog@ieee.org
* Modifications: D6 added, R1 increased to 8Meg, model 2V5 changed to 1V25
.subckt TLV431AS A K R
R1 R A 8e6
D4 A 4 1V25
D5 A K Dc
D1 R K Dc
G2 K 4 6 A 90m
G1 A 5 R 4 1
C1 5 A 1n Rpar=1k
R2 6 5 700k
D2 4 R Dc
D3 A 6 Di
C2 K 6 40p Rser=6k Rpar=400k
D6 A R Dc
.model Di D(Ron=10m)
.model Dc D(Ron=7 Vfwd=.6 Vrev=36)
.model 1V25 D(Ron=.13 Vfwd=.6 Vrev=1.25 Roff=7k)
.ends
